US06670360B2
(c) 7-Chloro-2,3-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrolo[2,3-d]pyridazine
Phosphorus oxychloride (55 ml, 590 mmol) was added to 2,3-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]-6,7-dihydropyrrolo[2,3-d]pyridazin-7-one (6.95 g, 30.1 mmol) and the mixture was stirred at 90° C. for 3.5 hours. After this time the reaction mixture was cooled to room temperature and poured dropwise into iced water. The aqueous solution was neutralized with 5N aqueous sodium hydroxide solution and extracted with methylene chloride. The extract was washed with water, dried over anhydrous magnesium sulfate and then concentrated in vacuo. Hexane was added to the residue and the precipitate was collected by filtration to afford the desired compound (6.90 g, 92.0%) as a pale yellow powder.

reactant | Phosphorus oxychloride | 590 mmol, 55 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,3-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]-6,7-dihydropyrrolo[2,3-d]pyridazin-7-one | 30.1 mmol, 6.95 g | CC1=C(C2=C(C(NN=C2)=O)N1C[C@@H]1[C@H](C1)C)C | C13H17N3O
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | water | O | H2O
product | 7-Chloro-2,3-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrolo[2,3-d]pyridazine | 6.90 g, 92.0% | ClC=1N=NC=C2C1N(C(=C2C)C)C[C@@H]2[C@H](C2)C | C13H16ClN3
